US09023846B2
A solution of 3-tert-butyl-isoxazole-5-carboxylic acid (6-bromo-3-nitro-pyridin-2-yl)-amide (139 mg, 0.377 mmol, prepared as described in the previous step) in DME (15 mL) and water (5 mL) was treated with 2-trifluoromethylphenylboronic acid (85.8 mg, 0.452 mmol) and cesium carbonate (245 mg, 0.753 mmol). The resulting mixture was de-gassed via sonication, placed under Ar, treated with PdCl2(dppf).DCM (15.4 mg, 0.019 mmol), and heated to 80° C. for 18 h. The cooled mixture was diluted with water (50 mL) and extracted twice with EtOAc (50 mL, 25 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 12-g SEPRA Si 50 SPE column (Isco system: Flow rate=15 mL/min; Eluent=EtOAc/hexanes, 1:99 v/v for 10 min, then 1:99 to 3:17 v/v over 40 min) to yield 6-(2-trifluoromethyl-phenyl)-3-nitro-pyridin-2-ylamine as a yellow solid. Mass Spectrum (LCMS, APCI pos.): Calculated for C12H8F3N3O2: 284.1 (M+H); Measured: 284.0.

reactant | 3-tert-butyl-isoxazole-5-carboxylic acid (6-bromo-3-nitro-pyridin-2-yl)-amide | BrC1=CC=C(C(=N1)NC(=O)C1=CC(=NO1)C(C)(C)C)[N+](=O)[O-] | C13H13BrN4O4
reactant | 2-trifluoromethylphenylboronic acid | 0.452 mmol, 85.8 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | cesium carbonate | 0.753 mmol, 245 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | 0.019 mmol, 15.4 mg | C(Cl)Cl | CH2Cl2
solvent | DME | 15 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 6-(2-trifluoromethyl-phenyl)-3-nitro-pyridin-2-ylamine | FC(C1=C(C=CC=C1)C1=CC=C(C(=N1)N)[N+](=O)[O-])(F)F | C12H8F3N3O2
